US04906281
While maintaining a reaction temperature of -5° C., 7.75 g (0.0850 mole) of pyridine was added dropwise to a stirred solution of 9.0 g (0.028 mole) of N-(4-chloro-2-fluoro-5-nitrophenylaminothiocarbonyl)perhydropyridazine in 250 mL of methylene chloride. To this mixture was added dropwise 3.25 g (0.0282 mole) of thiophosgene. This mixture was stirred at -5° C. for 30 minutes, then was allowed to warm to room temperature and was stirred for approximately 18 hours. The reaction mixture was washed with an aqueous, 5% hydrochloric acid solution followed by an aqueous, saturated sodium chloride solution. The washed reaction mixture was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure leaving a solid residue. The residue was purified by recrystallization to yield 4.5 g of 9-(4-chloro-2-fluoro-5-nitrophenyl)imino-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-thione, mp 171°-173° C.

reactant | pyridine | 0.0850 mole, 7.75 g | N1=CC=CC=C1 | C5H5N
reactant | N-(4-chloro-2-fluoro-5-nitrophenylaminothiocarbonyl)perhydropyridazine | 0.028 mole, 9.0 g | ClC1=CC(=C(C=C1[N+](=O)[O-])NC(=S)N1NCCCC1)F | C11H12ClFN4O2S
reactant | thiophosgene | 0.0282 mole, 3.25 g | C(=S)(Cl)Cl | CCl2S
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 9-(4-chloro-2-fluoro-5-nitrophenyl)imino-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-thione | 4.5 g | ClC1=CC(=C(C=C1[N+](=O)[O-])N=C1SC(N2CCCCN12)=S)F | C12H10ClFN4O2S2
